Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest tightness
 
Major Surgical or Invasive Procedure:
___: Cardiac catheterization

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman, with CAD s/p 2 stents 
in ___, who presented one day prior to admission with one week 
of new chest tightness and having to "gulp" for air.  The 
patient had been feeling well (from ___ until one week 
prior to admission, when he began to have episodes of chest 
tightness with exertion while the patient was on the treadmill.  
He then developed two episodes of ___, band-like anterior 
chest tightness at rest, the first being four days prior to 
admission and lasting two hours, then the second two days prior 
to admission, last one hour while the patient was watching 
televion before bed.  Along with the chest tightness during 
these episodes, the patient experienced a sensation of needing 
to "gulp for air."  He called his cardiologist, who encouraged 
him to present to the hospital.  In the ED, initial vitals were 
98.1 76 113/75 16 100% RA.  Labs and imaging significant for two 
sets of negative cardiac enzymes, EKG with sinus bradycardia @ 
51, no new STEMI/Q waves/T wave inversions, and chest x-ray no 
acute cardiopulmonary abnormalities.  He was given aspirin 81 mg 
x2 and scheduled for ETT the next morning.
.
On the morning of admission, the patient was given his daily 
clopidogrel 75 mg and rosuvastatin 20 mg.  He underwent an ETT, 
during which he exercised for 10 minutes (___) and 
experienced a sensation that he was "pulling for air."  Test was 
stopped for fatigue.  At peak exercise, there was noted 1.0-1.5 
mm of horizontal to upsloping ST segment depression inferiorly 
and V4-6, which resolved by one minute after stopping.  
Hemodynamic response during the test was appropriate. Following 
the ETT, the patient was given another aspirin 325 mg and one 
liter of normal saline, and transferred to the floor.  At the 
time of transfer, the patient was alert, oriented and 
ambulating, without any complaints.  His vital signs were 98.6, 
105/56, 78, 18 99 RA.   
.
On arrival to the floor, patient was feeling comfortable with 
initial vital signs 141/87 68 16 100% RA.  He had no chest pain 
or shortness of breath.  
.  
REVIEW OF SYSTEMS  
ROS was positive as above.  Also, positive for joint aches on 
___ morning after a long bike ride.  
ROS was negative for any prior history of stroke, TIA, deep 
venous thrombosis, pulmonary embolism, bleeding at the time of 
surgery, myalgias, cough, hemoptysis, black stools or red 
stools, recent fevers, chills or rigors, exertional buttock or 
calf pain. All of the other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: none
2. CARDIAC HISTORY:  
    ___: Patient experienced similar chest tightness and 
shortness of breath while running intermittently for the entire 
year.  THis was evaluated by Pulmonologists and Cardiologists at 
the time.  He then underwent cardiac catheterization via right 
femoral artery in ___ with PCI to the left circumflex 
and right coronary artery.  On cath, there was diffuse stenosis 
in the mid-LCx and distal RCA.  Cypher DES was placed in the LCx 
and also in the ostial RCA.
-CABG: none
-PERCUTANEOUS CORONARY INTERVENTIONS: as above 
-PACING/ICD: none 
3. OTHER PAST MEDICAL HISTORY: none

 
Social History:
___
Family History:
Strong family history of congestive heart failure, all after the 
age of ___, on both sides of the family.  He also has a strong 
family history of osteoporosis.  He has 2 brothers and 1 sister. 
 His sister has some sort of muscle illness, with details 
unknown. 

 
Physical Exam:
Admission physical exam:
VS: afebrile 141/___ 68 16 100% RA
GENERAL: WDWN white male in NAD. Oriented x3. Mood, affect 
appropriate.  Very pleasant.  Walking around the room.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with flat neck veins.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
.
Discharge physical exam:
O: T98.0 [Tm 99.0] BP 129/74 [123-141/74-84]
HR 55 [55-84] RR 16 SaO2 100%RA
GENERAL: WDWN white male in NAD. Oriented x3. Mood, affect 
appropriate.  Very pleasant.  Walking around the room.
HEENT: NCAT. Sclera anicteric. EOMI. MMM.
NECK: Supple with flat neck veins.
CARDIAC: RRR, normal S1, S2. No m/r/g. No S3 or S4.  
LUNGS: CTAB, no crackles, wheezes or rhonchi.  Breathing 
comfortably.
ABDOMEN: Soft, NTND. No HSM or tenderness. Normoactive bowel 
sounds.
EXTREMITIES: No c/c/e. No femoral bruits.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
 
Pertinent Results:
Admission labs:
___ 03:00PM BLOOD WBC-5.5 RBC-4.94 Hgb-15.0 Hct-40.9 MCV-83 
MCH-30.4 MCHC-36.7* RDW-12.7 Plt ___
___ 03:00PM BLOOD Neuts-65.7 ___ Monos-3.9 Eos-1.1 
Baso-0.8
___ 03:00PM BLOOD ___ PTT-23.9 ___
___ 03:00PM BLOOD Glucose-102* UreaN-16 Creat-1.0 Na-140 
K-4.6 Cl-107 HCO3-26 AnGap-12
___ 03:00PM BLOOD cTropnT-<0.01
.
Relevant labs:
___ 09:12PM BLOOD cTropnT-<0.01
.
Discharge labs:
___ 06:25AM BLOOD WBC-6.6 RBC-5.22 Hgb-15.5 Hct-43.7 MCV-84 
MCH-29.7 MCHC-35.5* RDW-13.0 Plt ___
___ 06:25AM BLOOD ___ PTT-25.3 ___
___ 06:25AM BLOOD Glucose-97 UreaN-19 Creat-1.1 Na-146* 
K-4.2 Cl-107 HCO3-30 AnGap-13
___ 06:25AM BLOOD Calcium-9.6 Phos-3.5 Mg-2.3
.
Relevant studies:
.
Resting EKG ___ at 21:10: sinus bradycardia at 40 bpm, 
normal axis and intervals, no ST elevations or depressions, T 
wave inversions in III, no pathologic Q waves
.
ETT ___:  
INTERPRETATION: This ___ year old man with known CAD s/p stenting 
at OSH ___ was referred to the lab for chest pain evaluation. 
The patient exercised for 10 minutes of ___ protocol (11 
METS) and stopped for fatigue. This represents a good functional 
capacity for his age. During exercise, the patient reported a 
feeling of "not able to get enough air". This feeling resolved 
with rest by 10 minutes post exercise. At peak exercise, there 
was 1.5-2 mm of horizontal ST segment depression inferiorly and 
V4-6. These changes resolved by one minute post exercise. The 
rhythm was sinus with rare isolated APBs and occasional VEA 
including isolated VPBs and couplets. The hemodynamic response 
to exercise was appropriate.  RPP ___, 95% max heart rate 
achieved.
IMPRESSION: Ischemic EKG changes with shortness of breath as a 
possible anginal equivalent. Good functional capacity for age.
.
Cardiac catheterization ___:
1. Coronary angiography in this right dominant system 
demonstrated single vessel disease.  The ___ had a 20% distal 
stenosis.  The LAD had a 30% mid stenosis.  The LCx had a 30% 
proximal stenosis with widely patent stent in the mid LCx.  The 
mid RCA had a 50% stenosis with widely patent stent in the a 
large posterolateral segment.
2. Limited resting hemodynamics revealed normal systemic 
arterial pressures with SBP 109 and DBP 61.
FINAL DIAGNOSIS:    
1. One vessel coronary artery disease of moderate severity.
2. Widely patent prior stents.
3. Negative pressure wire study of mid RCA ___ FFR ratio).
.  
Imaging:
CXR ___: FINDINGS: The lungs are clear without 
consolidation or edema. The mediastinum is unremarkable. The 
cardiac silhouette is within normal limits for size. No effusion 
or pneumothorax is noted. The visualized osseous structures are 
unremarkable. 
IMPRESSION: No acute pulmonary process. 
.  
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman, with history of CAD s/p 
2 stents (in LCx and RCA) in ___, with chest pain and shortness 
of breath, likely unstable angina, evaluated with cardiac 
catheterization during this admission.
.
.
Active issues:
# Chest tightness: Most likely unstable angina.  Patient with 
history of CAD with early onset, now s/p cath with PCI to LCx 
and RCA in ___.  Last lipid panel was excellent, and patient 
leads a very healthy lifestyle.  He has very few risk factors, 
and has been taking his aspirin and clopidogrel religiously, so 
the return of symptoms similar to before is perplexing.  It is 
possble that he developed in-stent restenosis or narrowing of 
another, previously unaffected artery.  Patient ruled out with 
two negative troponins.  Patient was amenable to having a cath 
for specific diagnosis and possible intervention on ___.  
Cardiac catheterization showed moderate single vessel disease in 
the RCA with widely patent prior stents.  No intervention was 
done.  During his admission, he was monitored on telemetry.  
Additionally, his aspirin, rosuvastatin, clopidogrel and fish 
oil were continued for treatment of his CAD.
.
.
Chronic issues:
none
.  
.
Transitional issues:
1.) Code: confirmed with patient.
2.) Emergency contact: Wife, ___ - home ___, cell ___.
 
Medications on Admission:
1.) Clopidogrel 75 mg PO daily
2.) Rosuvastatin 40 mg PO daily
3.) Aspirin 80 mg PO daily
4.) Propecia
5.) Calcium supplement
6.) Multivitamin
7.) Fish oil 
 
Discharge Medications:
1. omega-3 fatty acids     Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
2. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. rosuvastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  

4. Propecia  Oral
5. calcium  Oral
6. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO once a day.  
7. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
8. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) tablet 
Sublingual as needed as needed for chest pain: You may dissolve 
1 tab under your tongue every 5 minutes as needed for chest 
pain. You may take three tabs in 15 minutes.  If your chest pain 
does not resolve call your doctor or 911 and go to emergency 
room. .
Disp:*20 tablets* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Atypical chest pain
.
Secondary diagnosis:
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with chest discomfort and shortness of breath, 
symptoms which were similar to those preceding your 
catheterization and stenting in ___.  We were concerned about 
your coronary arteries, so we investigated them on a cardiac 
catheterization on ___.  Cardiac catheterization showed 
that your prior stents were not blocked and that you did not 
have significant worsening of your coronary artery disease from 
prior catheterization.  You were discharged home on medications 
for your heart, including clopidogrel, rosuvastatin, aspirin and 
fish oil.  It is possible that your pain was unrelated to your 
coronary artery disease.

Please note, the following changes have been made to your 
medications:
1. ADD nitroglycerin 0.4 mg sublingual as needed for chest pain. 
 You may dissolve 1 tab under your tongue every 5 minutes as 
needed for chest pain. You may take three tabs in 15 minutes.  
If your chest pain does not resolve call your doctor or 911 and 
go to emergency room. 

Please keep the appointments that have been made for you with 
Dr. ___ Dr. ___, as listed below.

If you develop chest discomfort or shortness of breath, please 
call your doctor or go to the Emergency Department immediately.

It was a pleasure to participate in your care at ___ 
___.  Wishing you all the best!
 
Followup Instructions:
___